US07737166B2
7-Fluoro-5-methyl-6-phenyl-2-(pyridin-3-yl)-1,3-benzoxazole-4-carbonitrile (I-209)
Nicotinyl chloride hydrochloride (192 mg, 1.08 mmol) and triethylamine (301 μl, 2.16 mmol) were added to a dichloromethane (9 ml) solution of 4-amino-6-fluoro-5-hydroxy-2-methylbiphenyl-3-carbonitrile (I-41) (218 mg, 0.900 mmol), followed by stirring at room temperature for 2 hours. Ethyl acetate (100 ml) was added to the reaction liquid, followed by washing with water (50 ml) and saturated brine (50 ml).

reactant | Nicotinyl chloride hydrochloride | 1.08 mmol, 192 mg | Cl.C(C1=CN=CC=C1)Cl
reactant | triethylamine | 2.16 mmol, 301 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 9 ml | ClCCl | CH2Cl2
reactant | 4-amino-6-fluoro-5-hydroxy-2-methylbiphenyl-3-carbonitrile | 0.900 mmol, 218 mg | NC1=C(C(=C(C(=C1O)F)C1=CC=CC=C1)C)C#N | C14H11FN2O
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 7-Fluoro-5-methyl-6-phenyl-2-(pyridin-3-yl)-1,3-benzoxazole-4-carbonitrile | FC=1C(=C(C(=C2N=C(OC21)C=2C=NC=CC2)C#N)C)C2=CC=CC=C2 | C20H12FN3O
